Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Morphine / Doxycycline / Novocain
 
Attending: ___.
 
Chief Complaint:
AAA
 
Major Surgical or Invasive Procedure:
EAVR

 
History of Present Illness:
This is a ___ female with
approximately 5.4 cm asymptomatic infrarenal abdominal aortic
aneurysm with aneurysm anatomy conducive to endograft
exclusion. An aorto-uni-iliac device was chosen with a fem-
fem bypass because there were several areas of her aortic
neck that were small in diameter and would constrain a
bifurcated graft. Given this, she was consented for endograft
exclusion with an aorto-uni-iliac device.

 
Past Medical History:
hypercholesterolemia, hypertension, cerebral artery aneurysm, 
carotid artery stenosis, urinary incontinence, macular 
degeneration, and osteopenia, Right carotid endarterectomy and 
Dacron patch angioplasty.

 
Social History:
___
Family History:
n/c
 
Physical Exam:
PE:

AFVSS

NEURO:

PERRL / EOMI

MAE equally

Answers simple commands

Neg pronator drift

Sensation intact to ST

2 plus DTR

___

___:

NCAT 

Neg lesions nares, oral pharnyx, auditory

Supple / FAROM

neg lyphandopathy, supra clavicular nodes

LUNGS: CTA b/l

CARDIAC: RRR without murmers

ABDOMEN: Soft, NTTP, ND, pos BS, neg CVA tenderness

EXT:

rle - palp fem, pop, pt, dp

lle - palp fem, pop, pt, dp

 

 
Pertinent Results:
___ 01:12PM   GLUCOSE-154* UREA N-19 CREAT-0.6 SODIUM-137 
POTASSIUM-3.4 CHLORIDE-108 TOTAL CO2-25 ANION GAP-7*
___ 01:12PM   GLUCOSE-154* UREA N-19 CREAT-0.6 SODIUM-137 
POTASSIUM-3.4 CHLORIDE-108 TOTAL CO2-25 ANION GAP-7*
___ 01:12PM   CALCIUM-7.2* PHOSPHATE-3.3 MAGNESIUM-1.4*
___ 01:12PM   WBC-6.4 RBC-2.67*# HGB-8.5*# HCT-25.5*# 
MCV-96 MCH-31.7 MCHC-33.2 RDW-12.9
 
Brief Hospital Course:
Mrs. ___ was admitted on ___ with AAA. She agreed to 
have an elective surgery. Pre-operatively, she was consented. A 
CXR, EKG, UA, CBC, Electrolytes, T/S - were obtained,  all other 
preperations were made.
 
It was decided that she would undergo a:

OPERATIONS:
1. Bilateral catheter placement in the abdominal aorta.
2. Abdominal aortogram.
3. Exclusion of abdominal aortic aneurysm with a Zenith
    aorto-uni-iliac 24 x ___ mm and a 16 x ___. Embolization of the left common iliac artery with a 14-
    mm Amplatzer plug.
5. Right to left common femoral artery to common femoral
    artery bypass with 8 mm externally supported PTFE.

She was prepped, and brought down to the operating room for 
surgery. Intra-operatively, she was closely monitored and 
remained hemodynamically stable. She tolerated the procedure 
well without any difficulty or complication.
 
Post-operatively, she was extubated and transferred to the PACU 
for further stabilization and monitoring. 
 
She was then transferred to the VICU for further recovery. While 
in the VICU she recieved monitered care. When stable she was 
delined. Her diet was advanced. A ___ consult was obtained. When 
she was stabalized from the acute setting of post operative 
care, she was transfered to floor status. 
 
On the floor, she remained hemodynamically stable with his pain 
controlled. She progressed with physical therapy to improve her 
strength and mobility. She continues to make steady progress 
without any incidents. She was discharged home in stable 
condition.
 
To note she did have a post op ileus and constipation. She was 
started on a bowel regime. On Dc she id having BM. Ileus 
resolved. 

Her lisinopril was discontinued prior to discharge for SBP's in 
the ___. She should follow up with her PCP to address her 
antihypertensive medication regimen. She required supplemental 
02 and nebulizer treatments for saturations in the ___. She 
received lasix and was able to ambulate on the day of discharge 
with an 02 sat of 90% and 94% at rest. This met criteria for 
discharge. O2 saturations should be rechecked by the PCP at the 
___ appointment as well. 
 
Medications on Admission:
ezetimibe 10, lisinopril 40, metoprolol succinate 25 mg M  
potassium chloride, premarin, Crestor 20 mg, 
triamterene-hydrochlorothiazid 37.5 mg-25, aspirin 81, vitamin 
A-vitamin C-vit E-min [Ocuvite]  

 
Discharge Medications:
1. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
2. rosuvastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. triamterene-hydrochlorothiazid 37.5-25 mg Capsule Sig: One 
(1) Capsule PO DAILY (Daily).  
4. ezetimibe 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

5. metoprolol succinate 25 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
6. Premarin 0.3 mg Tablet Sig: One (1) Tablet PO once a day.  
7. Klor-Con 8 8 mEq Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO once a day.  
8. Ocuvite     Tablet Sig: One (1) Tablet PO once a day.  
9. Senna Lax 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.
Disp:*60 Tablet(s)* Refills:*0*
10. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).
Disp:*60 Capsule(s)* Refills:*2*
11. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H 
(every 6 hours) as needed for pain: prn for pain.
Disp:*60 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
AAA

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Division of Vascular and Endovascular Surgery
Endovascular Abdominal Aortic Aneurysm (AAA) Discharge 
Instructions

Medications:
Take Aspirin 325mg (enteric coated) once daily 
Do not stop Aspirin unless your Vascular Surgeon instructs you 
to do so. 
Continue all other medications you were taking before surgery, 
unless otherwise directed
You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort

What to expect when you go home:
It is normal to have slight swelling of the legs:
Elevate your leg above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night
Avoid prolonged periods of standing or sitting without your 
legs elevated
It is normal to feel tired and have a decreased appetite, your 
appetite will return with time 
Drink plenty of fluids and eat small frequent meals
It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

What activities you can and cannot do:
When you go home, you may walk and go up and down stairs
You may shower (let the soapy water run over groin incision, 
rinse and pat dry)
Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid over the area that is draining, as needed
No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow groin puncture to heal)
After 1 week, you may resume sexual activity
After 1 week, gradually increase your activities and distance 
walked as you can tolerate
No driving until you are no longer taking pain medications
Call and schedule an appointment to be seen in ___ weeks for 
post procedure check and CTA 

What to report to office:
Numbness, coldness or pain in lower extremities 
Temperature greater than 101.5F for 24 hours
New or increased drainage from incision or white, yellow or 
green drainage from incisions
Bleeding from groin puncture site

SUDDEN, SEVERE BLEEDING OR SWELLING (Groin puncture site or 
incision)
Lie down, keep leg straight and have someone apply firm 
pressure to area for 10 minutes. If bleeding stops, call 
vascular office. If bleeding does not stop, call ___ for 
transfer to closest Emergency Room. 

 
Followup Instructions:
___